US04200753
Resorcinol (22 g) and 21.4 g of benzylamine were heated under an air condenser in a nitrogen atmosphere at 175°-185° C. for 5.5 hr. Then the air condenser was removed, and the temperature raised to 200°-203° where it was held for 1.5 hr. The red, viscous mass was cooled and boiled with 250 ml of 3:2 benzene-cyclohexane to form a solution. The solution was cooled several days at 5° C. to allow for the separation of oily material. The supernatant was decanted and evaporated to leave 12.0 g (30%) of pale-orange, viscous liquid 3-benzylaminophenol which was used without further purification.

reactant | Resorcinol | 22 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | benzylamine | 21.4 g | C(C1=CC=CC=C1)N | C7H9N
product | 3-benzylaminophenol | C(C1=CC=CC=C1)NC=1C=C(C=CC1)O | C13H13NO
